US04859661
To a stirred mixture of 130 ml of ether, 130 ml of water and 10.0 g of 2-ethylphenol was added dropwise 6.7 ml of 61% nitric acid, and the reaction was continued with stirring at room temperature for 4 hours. The reaction mixture was extracted with 300 ml of ethyl acetate and washed with a brine, and then dried with anhydrous sodium sulfate. The drying agent was filtered off and the solvent was distilled away under reduced pressure. The residue was purified by subjecting to silica-gel column-chromatography [eluent: chloroform]to give 5.75 g of 6-ethyl-2-nitrophenol.

reactant | ether | 130 ml | CCOCC | C4H10O
reactant | 2-ethylphenol | 10.0 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | nitric acid | 6.7 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | 130 ml | O | H2O
product | 6-ethyl-2-nitrophenol | 5.75 g | C(C)C1=CC=CC(=C1O)[N+](=O)[O-] | C8H9NO3
